US05914328
108a. 3.5-Dinitro-2-pyridinylhydrazine
Hydrazine (anhydrous, 0.75 ml, 23.9 mmol) was added to a solution of 2-chloro-3,5-dinitro-pyridine (3.42 g, 16.8 mmol) in methanol (25 mL). The resultant mixture was stirred at room temperature overnight. Solvent was evaporated, and the residue was washed with water and methanol several times to remove the impurities. A dark solid powder was obtained (3.0 g). MS (DCI/NH3) m/e: 200 (M+1). 1H NMR(DMSO-d6, 300MHz) δ: 9.25 (m, 1H), 9.06 (m, 1H).

reactant | Hydrazine | 23.9 mmol, 0.75 ml | NN | H4N2
reactant | 2-chloro-3,5-dinitro-pyridine | 16.8 mmol, 3.42 g | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | NH3 | N | H3N
solvent | methanol | 25 mL | CO | CH4O
product | 3.5-Dinitro-2-pyridinylhydrazine | [N+](=O)([O-])C=1C(=NC=C(C1)[N+](=O)[O-])NN | C5H5N5O4
